US06992087B2
Preparation of methyl(3R,4S)-3-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting methyl (3R,4S)-3-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate and tris(4-methoxy-2-methylphenyl)boroxin, and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, DMSO-d6) δ) 7.12, 6.80, 5.12, 5.08, 4.80, 4.66, 4.54, 4.16, 3.99-3.60, 3.36, 3.27, 2.70, 2.48, 2.12, 1.28; HRMS (FAB) calcd for C24H33FN4O4+H 461.2564, found 461.2570.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | methyl (3R,4S)-3-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | BrC=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC)CC | C16H24BrFN4O3
reactant | tris(4-methoxy-2-methylphenyl)boroxin | COC1=CC(=C(C=C1)B1OB(OB(O1)C1=C(C=C(C=C1)OC)C)C1=C(C=C(C=C1)OC)C)C | C24H27B3O6
product | methyl(3R,4S)-3-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OC | C24H33FN4O4
